US07244843B2
Step B. Preparation of (R)-1,3,4,10b-tetrahydro-9-propyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one hydrochloric acid salt
To N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-propyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one (25 mg, 0.06 mmol) was added concentrated aqueous hydrogen chloride (1 mL). After 5 min, the solution was concentrated, diluted with water, and lyopholized to give the desired product as an off-white solid (19 mg, 89%). %). MS (ESI) 299.3 (M−Cl).

reactant | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-propyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 0.06 mmol, 25 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=C(C=C23)CCC)C(F)(F)F)=O)CC1 | C20H25F3N2O3
reactant | hydrogen chloride | 1 mL | Cl | ClH
product | (R)-1,3,4,10b-tetrahydro-9-propyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one hydrochloric acid salt | 19 mg, 89% | Cl.C(CC)C1=CC(=C2C(N3[C@H](C2=C1)CNCC3)=O)C(F)(F)F | InChI=1S/C15H17F3N2O.ClH/c1-2-3-9-6-10-12-8-19-4-5-20(12)14(21)13(10)11(7-9)15(16,17)18;/h6-7,12,19H,2-5,8H2,1H3;1H/t12-;/m0./s1
